US08222416B2
To a solution of 1-{4-[1-(1-benzenesulfonyl-5-fluoro-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclopentyl-vinyl]-phenyl}-ethanone (210 mg, 0.43 mmol) in anhydrous tetrahydrofuran (5 mL) at 0° C. was added methylmagnesium chloride in tetrahydrofuran (3 M, 0.43 ml, 1.29 mmol) dropwise. After stirring for 2 h at 0° C., the reaction mixture was poured into brine (15 mL), extracted with ethyl acetate (2×50 mL), dried over anhydrous sodium sulfate and then concentrated in vacuo. Purification by flash column chromatography (silica gel from QingDao, 200-300 mesh, 33% ethyl acetate/hexanes) afforded 2-{4-[1-(1-benzenesulfonyl-5-fluoro-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclopentyl-vinyl]-phenyl}-propan-2-ol (220 mg, 100%): LC/MS m/e calcd for C29H29FN2O3S [M+H]+ 505.63, observed 505.2.

reactant | 1-{4-[1-(1-benzenesulfonyl-5-fluoro-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclopentyl-vinyl]-phenyl}-ethanone | 0.43 mmol, 210 mg | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2)F)C(=CC2CCCC2)C2=CC=C(C=C2)C(C)=O | C28H25FN2O3S
reactant | methylmagnesium chloride | C[Mg]Cl
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | brine | 15 mL | [Cl-].[Na+].O
solvent | tetrahydrofuran | 1.29 mmol, 3 M, 0.43 ml | O1CCCC1 | C4H8O
product | 2-{4-[1-(1-benzenesulfonyl-5-fluoro-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclopentyl-vinyl]-phenyl}-propan-2-ol | 220 mg, 100% | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2)F)C(=CC2CCCC2)C2=CC=C(C=C2)C(C)(C)O | C29H29FN2O3S
